US04434182
An additional method for preparing the intermediate 3-chloromethyl-2-methyl[1,1'-biphenyl] involves a Sommelet-Hauser rearrangement of N,N,N-trimethyl[1,1'-biphenyl]-2-methanaminium iodide to give 3-dimethylaminomethyl-2-methyl-[1,1'-biphenyl], which is then converted into the 3-chloromethyl derivative by treatment with ethyl chloroformate. The N,N,N-trimethyl-[1,1'-biphenyl]-2-methanaminium iodide starting material may be prepared in four steps from 2-biphenylcarboxylic acid via the acid chloride, dimethyl carboxamide, and dimethylaminomethyl derivatives.

reactant | 3-chloromethyl-2-methyl[1,1'-biphenyl] | ClCC=1C(=C(C=CC1)C1=CC=CC=C1)C | C14H13Cl
reactant | N,N,N-trimethyl[1,1'-biphenyl]-2-methanaminium iodide | [I-].C[N+](CC=1C(=CC=CC1)C1=CC=CC=C1)(C)C
product | 3-dimethylaminomethyl-2-methyl-[1,1'-biphenyl] | CN(C)CC=1C(=C(C=CC1)C1=CC=CC=C1)C | C16H19N
